US07816371B2
d. (R)-2-(5-Amino-1-oxoisoquinolin-2(1H)-yl)-N,3-dimethylbutanamide
(R)-3,N-Dimethyl-2-(5-nitro-1-oxo-1H-isoquinolin-2-yl)-butyramide (1.4 g, 0.0045 mol) was stirred with palladium 10% wt. on calcium carbonate (1.4 g, 0.00068 mol) in methanol (100 mL, 2 mol) under hydrogen (balloon) over 1 h at room temperature. The catalyst was filtered, the filtrate was concentrated to dryness to give a yellow solid. MS m/z 273.9 (M+H)+.

reactant | (R)-3,N-Dimethyl-2-(5-nitro-1-oxo-1H-isoquinolin-2-yl)-butyramide | 0.0045 mol, 1.4 g | CC([C@H](C(=O)NC)N1C(C2=CC=CC(=C2C=C1)[N+](=O)[O-])=O)C | C15H17N3O4
reactant | methanol | 2 mol, 100 mL | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | (R)-2-(5-Amino-1-oxoisoquinolin-2(1H)-yl)-N,3-dimethylbutanamide | NC1=C2C=CN(C(C2=CC=C1)=O)[C@@H](C(=O)NC)C(C)C | C15H19N3O2
